*
.SUBCKT D1PS70SB44 1 2 3
* The Resistors do not reflect
* physical devices.  Instead they
* improve modeling in the reverse
* mode of operation.
R1 1 3 6.659E+08
D1 1 3 D1PS70SB44
R2 3 2 6.659E+08
D2 3 2 D1PS70SB44
*
.MODEL D1PS70SB44 D
+(
+ IS = 1.419E-08
+ N = 1.025
+ BV = 44
+ IBV = 1.255E-07
+ RS = 4.942
+ CJO = 4.046E-12
+ VJ = 0.323
+ M = 0.4154
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS
*